US07973160B2
N6-Cyclopropyl-4-(4-(((4-fluoroanilino)carbonyl)(methyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide
After dissolving 4-(4-(((4-fluoroanilino)carbonyl)(methyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid (115 mg, 0.25 mmol) in dimethylformamide (2 ml) under a nitrogen atmosphere, triethylamine (0.2 ml), (1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino))phosphonium hexafluorophosphate (221 mg, 0.50 mmol) and cyclopropylamine (0.10 ml) were added in that order at room temperature, and the mixture was stirred overnight. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, and purification was performed by silica gel column chromatography (eluent-ethyl acetate). The fraction containing the target substance was concentrated under reduced pressure and suspended in ethyl acetate, the suspension was diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (78.7 mg, 0.157 mmol, 63.1%) as white crystals. 1H-NMR Spectrum (DMSO-d6) δ (ppm): 0.57 (2H, m), 0.70 (2H, m), 2.86 (1H, m), 3.29 (3H, s), 3.98 (3H, s), 6.64 (1H, d, J=5.2 Hz), 7.06 (2H, t, J=8.8 Hz), 7.31 (2H, d, J=8.8 Hz), 7.42-7.49 (5H, m), 8.23 (1H, s), 8.34 (1H, d, J=4.0 Hz), 8.43 (1H, s), 8.68 (1H, d, J=5.2 Hz).

reactant | 4-(4-(((4-fluoroanilino)carbonyl)(methyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.25 mmol, 115 mg | FC1=CC=C(NC(=O)N(C2=CC=C(OC3=CC=NC4=CC(=C(C=C34)C(=O)O)OC)C=C2)C)C=C1 | C25H20FN3O5
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino))phosphonium hexafluorophosphate | 0.50 mmol, 221 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | cyclopropylamine | 0.10 ml | C1(CC1)N | C3H7N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N6-Cyclopropyl-4-(4-(((4-fluoroanilino)carbonyl)(methyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxamide | 0.157 mmol, 78.7 mg, 63.1% | C1(CC1)NC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N(C)C(=O)NC1=CC=C(C=C1)F | C28H25FN4O4
